US03980645
To a solution of 0.93 g of 9-nitro-2,3,6,10b-tetrahydro-10b-phenyl-5H-oxazolo[3,2-C]quinazolin-5-one in 10 ml. of dimethylfomamide was added 0.18 g of 52.9% sodium hydride. The mixture was stirred with heating at 60°C for 1 hr. then, 0.68 g of benzyl bromide was added thereto. The resulting mixture was heated at 100°C for 4 hours. After cooling, the reaction mixture was poured into 50 ml. of water and the resulting precipitates were collected by filtration, washed with water and dried. The crude product was recrystallized from a mixture of methanol and carbon tetrachloride to give 1.0 g of 9-nitro-2,3,6,10b-tetrahydro-6-benzyl-10b-phenyl-5H-oxazolo[3,2-C]quinazolin-5-one as yellowish brown prisms, having a melting point of 96°-98°C (decomp.).

reactant | 9-nitro-2,3,6,10b-tetrahydro-10b-phenyl-5H-oxazolo[3,2-C]quinazolin-5-one | 0.93 g | [N+](=O)([O-])C1=CC=2C3(N(C(NC2C=C1)=O)CCO3)C3=CC=CC=C3 | C16H13N3O4
reactant | sodium hydride | 0.18 g | [H-].[Na+]
reactant | benzyl bromide | 0.68 g | C(C1=CC=CC=C1)Br | C7H7Br
product | 9-nitro-2,3,6,10b-tetrahydro-6-benzyl-10b-phenyl-5H-oxazolo[3,2-C]quinazolin-5-one | 1.0 g | [N+](=O)([O-])C1=CC=2C3(N(C(N(C2C=C1)CC1=CC=CC=C1)=O)CCO3)C3=CC=CC=C3 | C23H19N3O4
